US09302991B2
<Step-1>:(R)-2-methyl-N-(1-(3-(trifluoromethoxy)phenyl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 83% yield (0.38 g, a white solid) from 1-(3-(trifluoromethoxy)phenyl)ethanone (0.30 g, 1.47 mmol) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(3-(trifluoromethoxy)phenyl)ethanone | 1.47 mmol, 0.30 g | FC(OC=1C=C(C=CC1)C(C)=O)(F)F | C9H7F3O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(3-(trifluoromethoxy)phenyl)ethyl)propane-2-sulfinamide | 83% yield | CC(C)(C)[S@@](=O)NC(C)C1=CC(=CC=C1)OC(F)(F)F | C13H18F3NO2S
